* source LM741
Q_Q1         N14763 0 N143172 Q2N2222
Q_Q2         N14763 VINV N144362 Q2N2222
Q_Q7         N14771 N14737 N14714 Q2N2222
Q_Q6         STAGE1OUT N14714 N144722 Q2N2222
Q_Q5         N14737 N14714 N144902 Q2N2222
Q_Q3         N14737 N14767 N143172 Q2N2907
Q_Q4         STAGE1OUT N14767 N144362 Q2N2907
R_R1         N14637 N144902  1k TC=0,0 
R_R3         N14637 N14714  50k TC=0,0 
R_R2         N14637 N144722  1k TC=0,0 
Q_Q8         N14763 N14763 N14771 Q2N2907
Q_Q9         N14767 N14763 N14771 Q2N2907
Q_Q10         N14767 N20950 N149622 Q2N2222
R_R4         N14637 N149622  5k TC=0,0 
V_Vpos         N14771 0 15
V_Vpneg         N14637 0 -15
Q_Q11         N20950 N20950 N14637 Q2N2222
R_R5         N20950 N21063  39k TC=0,0 
Q_Q12         N21063 N21063 N14771 Q2N2907
Q_Q13         N21320 N21063 N14771 Q2N2907
Q_Q14         N14771 N21320 N21839 Q2N2222
Q_Q15         N21320 N21839 VOUT_MY741 Q2N2222
Q_Q16         N21320 N21649 VOUTSTAGE2 Q2N2222
Q_Q17         VOUTSTAGE2 N21334 N21410 Q2N2222
Q_Q18         VOUTSTAGE2 STAGE1OUT N21334 Q2N2222
Q_Q19         STAGE1OUT N21410 N14637 Q2N2222
R_R11         N14637 N21410  50 TC=0,0 
R_R12         N14637 N21334  50k TC=0,0 
R_R8         N21649 VOUTSTAGE2  7.5k TC=0,0 
R_R7         N21649 N21320  4.5k TC=0,0 
Q_Q20         N14637 VOUTSTAGE2 N21885 Q2N2907
R_R10         N21885 VOUT_MY741  50 TC=0,0 
R_R9         VOUT_MY741 N21839  25 TC=0,0 
X_U1         N24801 N24801 N25218 N25310 VOUT_741 LM741
V_Vpos1         N25218 0 15
V_Vpos2         N25310 0 -15
C_C1         STAGE1OUT N21320  30p  TC=0,0 
V_V1         N32882 0  
+SIN 0 1 5000 0 0 0
V_V2         N24801 0  
+SIN 0 1 5000 0 0 0
R_R13         VOUT_MY741 VINV  1k TC=0,0 
R_R14         N32882 VINV  1k TC=0,0 
