* source FTSIMD
M_M1         N14643 N14410 N14721 N14721 M2N7000
X_M3         N14410 N14410 N14410 BS250/PLP
M_M4         N14410 N14410 N14721 N14721 M2N7000
X_M5         N14452 N14410 N14410 BS250/PLP
M_M6         N14410 VINV N14643 N14643 M2N7000
M_M7         N14452 0 N14643 N14643 M2N7000
X_M8         MYLM325 N14452 N14410 BS250/PLP
M_M10         MYLM325 N14410 N14721 N14721 M2N7000
C_C1         MYLM325 N14452  150p  TC=0,0 
V_V1         0 N14410 -5
V_V2         0 N14721 5
R_R14         N33035 VINV  5k TC=0,0 
R_R13         MYLM325 VINV  5k TC=0,0 
X_U1         0 N34520 N34438 N34524 VOUT_741 LM741
V_Vpos1         N34438 0 15
V_Vpos2         N34524 0 -15
R_R15         N34520 VOUT_741  5k TC=0,0 
R_R16         N348551 N34520  2.5k TC=0,0 
V_V7         N348551 0 DC 0Vdc AC 1Vac 
V_V9         N33035 0 DC 0Vdc AC 1Vac 
