* source OPAMP5V
Q_Q10         N24065 N24245 N247912 Q2N2222
Q_Q12         N23983 N23983 N23823 Q2N2907
R_R4         N24917 N247912  5k TC=0,0 
C_C1         N24431 N24075  30pF  TC=0,0 
Q_Q7         N23823 N24425 N24693 Q2N2222
R_R12         N24917 N24641  50k TC=0,0 
Q_Q13         N24075 N23983 N23823 Q2N2907
R_R5         N24245 N23983  39k TC=0,0 
Q_Q11         N24245 N24245 N24917 Q2N2222
Q_Q16         N24075 N24235 N24461 Q2N2222
Q_Q17         N24461 N24641 N24705 Q2N2222
Q_Q20         N24917 N24461 N24711 Q2N2907
V_V1         N23861 0  
+SIN 0 0.02 5000 0 0 0
R_R11         N24917 N24705  50 TC=0,0 
Q_Q19         N24431 N24705 N24917 Q2N2222
R_R7         N24235 N24075  4.5k TC=0,0 
R_R9         N24419 N24231  25 TC=0,0 
R_Rin         N23861 VINV  4.7k TC=0,0 
R_R10         N24711 N24419  50 TC=0,0 
R_R1         N24917 N247392  1k TC=0,0 
Q_Q14         N23823 N24075 N24231 Q2N2222
Q_Q15         N24075 N24231 N24419 Q2N2222
V_Vpneg         N24917 0 -15
V_Vpos         N23823 0 15
R_R8         N24235 N24461  7.5k TC=0,0 
R_R3         N24917 N24693  50k TC=0,0 
Q_Q5         N24425 N24693 N247392 Q2N2222
Q_Q8         N23971 N23971 N23823 Q2N2907
Q_Q3         N24425 N24065 N241012 Q2N2907
Q_Q1         N23971 0 N241012 Q2N2222
R_RF         N24419 VINV  4.7k TC=0,0 
Q_Q9         N24065 N23971 N23823 Q2N2907
R_R2         N24917 N247652  1k TC=0,0 
Q_Q6         N24431 N24693 N247652 Q2N2222
Q_Q4         N24431 N24065 N241272 Q2N2907
Q_Q2         N23971 VINV N241272 Q2N2222
Q_Q18         N24461 N24431 N24641 Q2N2222
M_M1         M2N7000
